US08981101B2
Preparation of 2-phenyl-5-(1H-pyrrolo[2,3-b]pyridin-3-yl)-1,8-naphthyridine (“A5”)
A Schlenk tube is filled successively under nitrogen with 189 mg (0.55 mmol) of tert-butyl 3-iodopyrrolo[2,3-b]pyridine-1-carboxylate, 9.5 mg (8.2 μmol) of tetrakis(triphenylphosphine)palladium, 2.3 ml of dioxane, 0.23 ml (1.6 mmol) of triethylamine and 80 μml (0.55 mmol) of 4,4,5,5-tetramethyl-1,3,2-dioxaborolane. The reaction mixture is stirred at 80° C. for 3 hours under nitrogen. The reaction mixture is cooled to room temperature; 1 ml of water, 175 mg (2.1 mmol) of sodium carbonate, 22 mg (19 μmol) of tetrakis(triphenylphosphine)palladium, 132 mg (0.55 mmol) of 5-chloro-2-phenyl-1,8-naphthyridine and 4.6 ml of 1,2-dimethoxyethane are added under a nitrogen atmosphere. The reaction mixture is stirred at 100° C. for 20 hours. The reaction mixture is cooled to room temperature and evaporated in vacuo. The residue is chromatographed on a silica-gel column with methanol/dichloromethane as eluent: 2-phenyl-5-(1H-pyrrolo[2,3-b]pyridin-3-yl)-1,8-naphthyridine (“A5”) as yellowish crystals; MS (ESI): 322 [M+H]+;

reactant | tert-butyl 3-iodopyrrolo[2,3-b]pyridine-1-carboxylate | 0.55 mmol, 189 mg | IC1=CN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C12H13IN2O2
reactant | triethylamine | 1.6 mmol, 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | 4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.55 mmol | CC1(OBOC1(C)C)C | C6H13BO2
reactant | sodium carbonate | 2.1 mmol, 175 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-chloro-2-phenyl-1,8-naphthyridine | 0.55 mmol, 132 mg | ClC1=C2C=CC(=NC2=NC=C1)C1=CC=CC=C1 | C14H9ClN2
catalyst | tetrakis(triphenylphosphine)palladium | 8.2 μmol, 9.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium | 19 μmol, 22 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | 4.6 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
solvent | dioxane | 2.3 ml | O1CCOCC1 | C4H8O2
product | 2-phenyl-5-(1H-pyrrolo[2,3-b]pyridin-3-yl)-1,8-naphthyridine | C1(=CC=CC=C1)C1=NC2=NC=CC(=C2C=C1)C1=CNC2=NC=CC=C21 | C21H14N4
